US09278981B2
Stage 216.2 5-bromo-6-chloro-N-(4-(pentafluorosulfanyl)phenyl)nicotinamide
The title compound was prepared in an analogous fashion to that described infashion to that described in Stage 185.2 using 5-Bromo-6-chloro-nicotinic acid and 4-aminophenylsulfur pentafluoride to afford an orange solid. HPLC (Condition 4), tR=6.43 min, UPLC-MS (Condition 3) tR=1.27 min, m/z=435.3/437.2.

reactant | 5-Bromo-6-chloro-nicotinic acid | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | 4-aminophenylsulfur pentafluoride | NC1=CC=C(C=C1)S(F)(F)(F)(F)F | C6H6F5NS
product | 5-bromo-6-chloro-N-(4-(pentafluorosulfanyl)phenyl)nicotinamide | BrC=1C(=NC=C(C(=O)NC2=CC=C(C=C2)S(F)(F)(F)(F)F)C1)Cl | C12H7BrClF5N2OS
